US06562808B1
Preparation of (R)- and (S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]oxazepine
4 M hydrochloride/dioxane solution (1.5 ml) was added to a solution of 400 mg of (R)-5,11-dihydro-5-[1-(t-butoxycarbonyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine in dioxane (1.5 ml)), and the mixture was stirred at room temperature for one hour. The solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane (20 ml). Triethylamine (0.16 ml, 1.1 mmol) was added to the obtained solution, and the solution was stirred at room temperature for 30 minutes and then washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound, i.e. (R)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo [b,e][1,4]oxazepine, in the form of a light yellow oil(280 mg, 96%).

reactant | hydrochloride dioxane | 4 M, 1.5 ml | Cl.O1CCOCC1
reactant | (R)-5,11-dihydro-5-[1-(t-butoxycarbonyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine | 400 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C23H28N2O3
reactant | Triethylamine | 1.1 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | (R)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo [b,e][1,4]oxazepine | N1[C@H](CCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C18H20N2O
